US05861417
Combine methyl 2-methoxy-5-formylbenzoate (5.0 g, 25.9 mmol), hydroxylamine hydrochloride (8.55 g, 133 mmol), and sodium acetate (10.25 g, 125 mmol) in ethanol/water (200 mL, 1/1). Heat to 50° C. After 1 hour, pour the reaction mixture onto ice to give a solid. Collect the solid by filtration to give methyl 2-methoxy-5-formylbenzoate oxime: Rf =0.76 (silica gel, 9/1 dichloromethane/methanol).

reactant | methyl 2-methoxy-5-formylbenzoate | 25.9 mmol, 5.0 g | COC1=C(C(=O)OC)C=C(C=C1)C=O | C10H10O4
reactant | hydroxylamine hydrochloride | 133 mmol, 8.55 g | Cl.NO
reactant | sodium acetate | 125 mmol, 10.25 g | C(C)(=O)[O-].[Na+]
solvent | ethanol water | 200 mL | C(C)O.O
product | methyl 2-methoxy-5-formylbenzoate oxime | COC1=C(C(OC)=NO)C=C(C=C1)C=O | C10H11NO4
